US05525720
To a solution of 3',5'-di-O-trityl-1-benzylinosine (2.0 g, 2.4 mmol), 4-dimethylaminopyridine (290 mg, 2.4 mmol) and triethylamine (480 mg, 4.8 mmol) in methylene chloride (40 mL) is added triflyl chloride (800 mg, 4.8 mmol), and the mixture is stirred at room temperature for 1 hour, and then concentrated in vacuo. The residue is chromatographed on a silica gel column using a mixture of tetrachloromethane and ethyl acetate (5:1 v/v) as the eluent to give 3',5'-di-O-trityl-2'-O-triflyl-1-benzylinosine as a foam (1.82 g, 78% yield), 1H NMR (Me2SO-d6) δ 2.92-2.96 (2H, m, H-5',5"), 3.62-3.69 (1H, m, H-4'), 4.41-4.43 (1H, m, H-3'), 5.23 (2H, s, CH2Ph), 5.89-5.95 (1H, m, H-2'), 6.66 (1 H, d, H-1', J1',2' =6.3 Hz), 7.18-7.34 (35H, m, 2 x Tr and CH2Ph), 8.29, 8.32 (1H each, s, H-2, H-8). Analyses calculated for C56H45F3N4O5S: C, 68.98, H, 4.65, N, 5.63. Found: C, 68.94, H, 4.76, N, 5.63.

reactant | 3',5'-di-O-trityl-1-benzylinosine | 2.4 mmol, 2.0 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)O[C@H]1[C@H]([C@@H](O[C@@H]1COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)N1C=NC=2C(=O)N(C=NC12)CC1=CC=CC=C1)O | C55H46N4O5
reactant | triethylamine | 4.8 mmol, 480 mg | C(C)N(CC)CC | C6H15N
reactant | triflyl chloride | 4.8 mmol, 800 mg | S(=O)(=O)(C(F)(F)F)Cl | CClF3O2S
catalyst | 4-dimethylaminopyridine | 2.4 mmol, 290 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 40 mL | C(Cl)Cl | CH2Cl2
product | 3',5'-di-O-trityl-2'-O-triflyl-1-benzylinosine | 1.82 g, 78% yield | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)O[C@H]1[C@H]([C@@H](O[C@@H]1COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)N1C=NC=2C(=O)N(C=NC12)CC1=CC=CC=C1)OS(=O)(=O)C(F)(F)F | C56H45F3N4O7S
